US09422271B2
To N-(2-acetamidoethyl)-5-(5-bromo-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)thiophene-2-carboxamide (273.8 mg, 0.56 mmol, 1.0 equiv.), acetic anhydride (114.2 mg, 1.1 mmol, 2.0 equiv.) in THF/H2O (10 ml/1 mL) was stirred at 23° C. for 2 hour. Then the mixture was extracted with THF (6×40 ml). The combined organic layers were dried (Na2SO4), filtered and concentrated give N-(2-acetamidoethyl)-5-(4-(1-acetyl-5-cyclopropyl-1H-pyrazol-3-ylamino)-5-bromopyrimidin-2-yl)thiophene-2-carboxamide (294.0 mg, 98.5%) as pale yellow solid. LC-MS (m/z)=533.1 [M+H]+;

reactant | N-(2-acetamidoethyl)-5-(5-bromo-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)thiophene-2-carboxamide | 0.56 mmol, 273.8 mg, 1.0 equiv. | C(C)(=O)NCCNC(=O)C=1SC(=CC1)C1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)Br | C19H20BrN7O2S
reactant | acetic anhydride | 1.1 mmol, 114.2 mg, 2.0 equiv. | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF H2O | 10 ml | C1CCOC1.O
product | N-(2-acetamidoethyl)-5-(4-(1-acetyl-5-cyclopropyl-1H-pyrazol-3-ylamino)-5-bromopyrimidin-2-yl)thiophene-2-carboxamide | 294.0 mg, 98.5% | C(C)(=O)NCCNC(=O)C=1SC(=CC1)C1=NC=C(C(=N1)NC1=NN(C(=C1)C1CC1)C(C)=O)Br | C21H22BrN7O3S
